// Generated for: spectre
// Generated on: Apr  9 15:18:30 2023
// Design library name: TransitionSimu_RCDelayModel2013
// Design cell name: Test_20230409
// Design view name: schematic
simulator lang=spectre
global 0
include "/eda/home/wc/Projects/Virtuoso/TSV_Transition_Simu/TSV_Transition_202304/TSMC-65nm(OA)/PDK_files/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib

// Library name: TransitionSimu_RCDelayModel2013
// Cell name: Test_20230409
// View name: schematic
R2 (net2 net02) resistor r=50
R1 (net5 net2) resistor r=200m
R0 (net1 net5) resistor r=50
C1 (net02 0) capacitor c=2f
C0 (net1 0) capacitor c=2f
V0 (net1 0) vsource type=pulse val0=0 val1=1 period=2n rise=50p fall=50p
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
