// Generated for: spectre
// Generated on: Apr  9 17:17:28 2023
// Design library name: TransitionSimu_MISModel
// Design cell name: Test_TSVXtalk_230408
// Design view name: schematic
simulator lang=spectre
global 0
include "/eda/home/wc/Projects/Virtuoso/TSV_Transition_Simu/TSV_Transition_202304/TSMC-65nm(OA)/PDK_files/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib

// Library name: TransitionSimu_MISModel
// Cell name: MISModel_Aggressor
// View name: schematic
subckt MISModel_Aggressor tsv_coupling tsv_in tsv_out
    R1 (net09 tsv_out) resistor r=1u
    R0 (net07 tsv_coupling) resistor r=1u
    C0 (tsv_coupling 0) capacitor c=2.1f
    L1 (tsv_coupling net09) inductor l=5p
    L0 (tsv_in net07) inductor l=5p
ends MISModel_Aggressor
// End of subcircuit definition.

// Library name: tsmcN65
// Cell name: inv
// View name: schematic
subckt inv G Gb IN OUT P Pb
parameters pl=60n pw=200n pf=1 psd=200n psa=175n psb=175n nl=60n nw=200n \
        nf=1 nsd=200n nsa=175n nsb=175n
    PM1 (OUT IN P Pb) pch l=pl w=pw*pf m=1 nf=pf sd=psd \
        ad=((pf-int(pf/2)*2)*(1.75e-07+((pf-1)*2e-07)/2+0)+(pf+1-int((pf+1)/2)*2)*((pf/2)*2e-07))*pw \
        as=((pf-int(pf/2)*2)*(1.75e-07+((pf-1)*2e-07)/2+0)+(pf+1-int((pf+1)/2)*2)*(1.75e-07+1.75e-07+(pf/2-1)*2e-07+0+0))*pw \
        pd=(pf-int(pf/2)*2)*((1.75e-07+((pf-1)*2e-07)/2+0)*2+(pf+1)*pw)+(pf+1-int((pf+1)/2)*2)*(((pf/2)*2e-07)*2+pf*pw) \
        ps=(pf-int(pf/2)*2)*((1.75e-07+((pf-1)*2e-07)/2+0)*2+(pf+1)*pw)+(pf+1-int((pf+1)/2)*2)*((1.75e-07+1.75e-07+(pf/2-1)*2e-07+0+0)*2+(pf+2)*pw) \
        nrd=(pf-int(pf/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(pf-1))/pw)+(pf+1-int((pf+1)/2)*2)*(1e-07/pf/pw) \
        nrs=(pf-int(pf/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(pf-1))/pw)+(pf+1-int((pf+1)/2)*2)*(1e-07*1e-07*1e-07/(1e-07*1e-07*(pf-2)+1e-07*(1e-07+1e-07))/pw) \
        sa=psa sb=psb sca=0 scb=0 scc=0
    NM1 (OUT IN G Gb) nch l=nl w=nw*nf m=1 nf=nf sd=nsd \
        ad=((nf-int(nf/2)*2)*(1.75e-07+((nf-1)*2e-07)/2+0)+(nf+1-int((nf+1)/2)*2)*((nf/2)*2e-07))*nw \
        as=((nf-int(nf/2)*2)*(1.75e-07+((nf-1)*2e-07)/2+0)+(nf+1-int((nf+1)/2)*2)*(1.75e-07+1.75e-07+(nf/2-1)*2e-07+0+0))*nw \
        pd=(nf-int(nf/2)*2)*((1.75e-07+((nf-1)*2e-07)/2+0)*2+(nf+1)*nw)+(nf+1-int((nf+1)/2)*2)*(((nf/2)*2e-07)*2+nf*nw) \
        ps=(nf-int(nf/2)*2)*((1.75e-07+((nf-1)*2e-07)/2+0)*2+(nf+1)*nw)+(nf+1-int((nf+1)/2)*2)*((1.75e-07+1.75e-07+(nf/2-1)*2e-07+0+0)*2+(nf+2)*nw) \
        nrd=(nf-int(nf/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(nf-1))/nw)+(nf+1-int((nf+1)/2)*2)*(1e-07/nf/nw) \
        nrs=(nf-int(nf/2)*2)*(1e-07*1e-07/(1e-07+1e-07*(nf-1))/nw)+(nf+1-int((nf+1)/2)*2)*(1e-07*1e-07*1e-07/(1e-07*1e-07*(nf-2)+1e-07*(1e-07+1e-07))/nw) \
        sa=nsa sb=nsb sca=0 scb=0 scc=0
ends inv
// End of subcircuit definition.

// Library name: TransitionSimu_MISModel
// Cell name: MISModel_AdjacentXtalk
// View name: schematic
subckt MISModel_AdjacentXtalk port_a port_b
    C0 (port_a port_b) capacitor c=12.0f
    R0 (port_a port_b) resistor r=100
ends MISModel_AdjacentXtalk
// End of subcircuit definition.

// Library name: TransitionSimu_MISModel
// Cell name: Test_TSVXtalk_230408
// View name: schematic
I106 (net017 net016 net023) MISModel_Aggressor
I97 (net054 net014 net026) MISModel_Aggressor
I92 (net033 net056 net039) MISModel_Aggressor
I71 (net02 net07 net04) MISModel_Aggressor
I0 (net021 net8 net5) MISModel_Aggressor
I108 (0 0 net018 net016 net058 net058) inv m=1 pl=60n pw=80u pf=1 psd=200n \
        psa=175.00n psb=175.00n nl=60n nw=40u nf=1 nsd=200n nsa=175.00n \
        nsb=175.00n
I95 (0 0 net031 net014 net05 net05) inv m=1 pl=60n pw=80u pf=1 psd=200n \
        psa=175.00n psb=175.00n nl=60n nw=40u nf=1 nsd=200n nsa=175.00n \
        nsb=175.00n
I94 (0 0 net034 net056 net057 net057) inv m=1 pl=60n pw=80u pf=1 psd=200n \
        psa=175.00n psb=175.00n nl=60n nw=40u nf=1 nsd=200n nsa=175.00n \
        nsb=175.00n
I77 (0 0 net010 net8 net048 net048) inv m=1 pl=60n pw=80u pf=1 psd=200n \
        psa=175.00n psb=175.00n nl=60n nw=40u nf=1 nsd=200n nsa=175.00n \
        nsb=175.00n
I73 (0 0 net06 net07 net032 net032) inv m=1 pl=60n pw=80u pf=1 psd=200n \
        psa=175.00n psb=175.00n nl=60n nw=40u nf=1 nsd=200n nsa=175.00n \
        nsb=175.00n
V9 (net058 0) vsource dc=1.2 type=dc
V8 (net05 0) vsource dc=1.2 type=dc
V7 (net057 0) vsource dc=1.2 type=dc
V6 (net048 0) vsource dc=1.2 type=dc
V0 (net032 0) vsource dc=1.2 type=dc
C18 (net021 net019) capacitor c=1p
C17 (net017 net024) capacitor c=1p
C16 (net023 0) capacitor c=1p
C15 (net026 0) capacitor c=1p
C14 (net054 net025) capacitor c=1p
C13 (net021 net030) capacitor c=1p
C12 (net021 net035) capacitor c=1p
C11 (net033 net040) capacitor c=1p
C10 (net039 0) capacitor c=1p
C9 (net02 net09) capacitor c=1p
C8 (net021 net0109) capacitor c=1p
C7 (net04 0) capacitor c=1p
C0 (net5 0) capacitor c=1p
V20 (net018 0) vsource dc=1.2 type=pulse val0=0 val1=1.2 period=3n \
        rise=50p fall=50p
V19 (net031 0) vsource dc=1.2 type=pulse val0=0 val1=1.2 period=3n \
        rise=50p fall=50p
V18 (net034 0) vsource dc=1.2 type=pulse val0=0 val1=1.2 period=3n \
        rise=50p fall=50p
V17 (net06 0) vsource dc=1.2 type=pulse val0=0 val1=1.2 period=3n rise=50p \
        fall=50p
V2 (net010 0) vsource dc=1.2 type=pulse val0=1.2 val1=0 period=3n rise=50p \
        fall=50p
I107 (net019 net024) MISModel_AdjacentXtalk
I96 (net030 net025) MISModel_AdjacentXtalk
I93 (net035 net040) MISModel_AdjacentXtalk
I72 (net0109 net09) MISModel_AdjacentXtalk
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
