// Generated for: spectre
// Generated on: Apr  9 17:38:02 2023
// Design library name: TransitionSimu_MISModel
// Design cell name: Test_TSVXtalk_230409
// Design view name: schematic
simulator lang=spectre
global 0
include "/eda/home/wc/Projects/Virtuoso/TSV_Transition_Simu/TSV_Transition_202304/TSMC-65nm(OA)/PDK_files/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib

// Library name: TransitionSimu_MISModel
// Cell name: MISModel_AdjacentXtalk
// View name: schematic
subckt MISModel_AdjacentXtalk port_a port_b
    C0 (port_a port_b) capacitor c=12.0f
    R0 (port_a port_b) resistor r=100
ends MISModel_AdjacentXtalk
// End of subcircuit definition.

// Library name: TransitionSimu_MISModel
// Cell name: MISModel_Aggressor
// View name: schematic
subckt MISModel_Aggressor tsv_coupling tsv_in tsv_out
    R1 (net09 tsv_out) resistor r=1u
    R0 (net07 tsv_coupling) resistor r=1u
    C0 (tsv_coupling 0) capacitor c=2.1f
    L1 (tsv_coupling net09) inductor l=5p
    L0 (tsv_in net07) inductor l=5p
ends MISModel_Aggressor
// End of subcircuit definition.

// Library name: TransitionSimu_MISModel
// Cell name: Test_TSVXtalk_230409
// View name: schematic
R4 (net38 net16) resistor r=50
R3 (net23 net14) resistor r=50
R2 (net51 net10) resistor r=50
R1 (net41 net8) resistor r=50
R0 (net28 net12) resistor r=50
C16 (net34 0) capacitor c=1p
C17 (net39 net33) capacitor c=1p
C15 (net18 0) capacitor c=1p
C14 (net19 net20) capacitor c=1p
C0 (net22 0) capacitor c=1p
C10 (net27 0) capacitor c=1p
C11 (net30 net29) capacitor c=1p
C18 (net3 net49) capacitor c=1p
C8 (net3 net43) capacitor c=1p
C9 (net40 net48) capacitor c=1p
C7 (net47 0) capacitor c=1p
C12 (net3 net52) capacitor c=1p
C13 (net3 net50) capacitor c=1p
V20 (net38 0) vsource dc=1.2 type=pulse val0=0 val1=1.2 period=1n rise=50p \
        fall=50p
V19 (net23 0) vsource dc=1.2 type=pulse val0=0 val1=1.2 period=1n rise=50p \
        fall=50p
V2 (net28 0) vsource dc=1.2 type=pulse val0=1.2 val1=0 period=1n rise=50p \
        fall=50p
V18 (net51 0) vsource dc=1.2 type=pulse val0=0 val1=1.2 period=1n rise=50p \
        fall=50p
V17 (net41 0) vsource dc=1.2 type=pulse val0=0 val1=1.2 period=1n rise=50p \
        fall=50p
I107 (net49 net33) MISModel_AdjacentXtalk
I72 (net43 net48) MISModel_AdjacentXtalk
I93 (net52 net29) MISModel_AdjacentXtalk
I96 (net50 net20) MISModel_AdjacentXtalk
I106 (net39 net16 net34) MISModel_Aggressor
I97 (net19 net14 net18) MISModel_Aggressor
I0 (net3 net12 net22) MISModel_Aggressor
I92 (net30 net10 net27) MISModel_Aggressor
I71 (net40 net8 net47) MISModel_Aggressor
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
